* G:\Other computers\My Computer\Coursework\PEE1 LAB\LTSPICE\Draft1.asc
V1 N001 0 8V
R1 N001 0 5k
R2 N002 N001 2000
R3 0 N002 6k
I1 0 N002 0.010
I2 N002 N001 0.005
.tran 1
.backanno
.end
