* G:\Other computers\My Computer\Coursework\PEE1 LAB\LTSPICE\Draft2.asc
R1 N001 N002 40k
R2 N001 N002 60k
R3 0 N001 12k
R4 N002 0 36k
I1 0 N002 0.001
.tran 1
.backanno
.end
