* G:\Other computers\My Computer\Coursework\PEE1\lab2\prelab circuit.asc
Vin N001 0 10V
R1 N002 N001 2k
R3 N002 0 2k
R2 N003 N002 2k
Ro 0 N003 2k
.tran 1
.backanno
.end
